US07777047B2
N-methyl-N-(2-{5-[2-(4-methylpiperazin-1-yl)-2-oxoethyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide
To a mixture of (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (80 mg), N-methylpiperazine (25 μL), 1H-1,2,3-benzotriazol-1-ol (35 mg) and N,N-dimethylformamide (8 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (50 mg) under ice-cooling, and the mixture was stirred from under ice-cooling to room temperature for 18 hr. The reaction solution was diluted with ethyl acetate, washed with water, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained pale-yellow crystals were recrystallized from ethyl acetate-hexane to give the title compound (59 mg, yield: 62%) as colorless crystals.

reactant | (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 80 mg | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)S(=O)(=O)C=1SC=CC1 | C18H17N3O4S3
reactant | N-methylpiperazine | 25 μL | CN1CCNCC1 | C5H12N2
reactant | 1H-1,2,3-benzotriazol-1-ol | 35 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 50 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | N-methyl-N-(2-{5-[2-(4-methylpiperazin-1-yl)-2-oxoethyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide | 59 mg, yield: 62% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)N1CCN(CC1)C | C23H27N5O3S3
